US08247403B2
(1) tert-butyl 9-(2-oxopyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
tert-Butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (328 mg, 1.00 mmol), 2-pyrrolidone (85.1 mg, 1.00 mmol), tripotassium phosphate (318 mg, 1.50 mmol), N,N-dimethylformamide (3 ml), dioxane (3 ml) and 1,2-trans-cyclohexanediamine (0.025 ml) mixture were stirred at room temperature under a nitrogen atmosphere for 5 min. Copper iodide(I) (35.0 mg, 0.184 mmol) was added, and the mixture was stirred at 110° C. under a nitrogen atmosphere for 20 hr. The reaction mixture was poured into water (10 ml) and ethyl acetate (10 ml), and filtered through celite. The organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (260 mg, 86.4%) as an oil.

reactant | tert-Butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.00 mmol, 328 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 2-pyrrolidone | 1.00 mmol, 85.1 mg | N1C(CCC1)=O | C4H7NO
reactant | tripotassium phosphate | 1.50 mmol, 318 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-trans-cyclohexanediamine | 0.025 ml | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-butyl 9-(2-oxopyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 260 mg, 86.4% | O=C1N(CCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H24N2O4
